US08791132B2
To a solution of 5-(2-azido-2-(4-fluorophenyl)ethyl)-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (1 g, 2.75 mmol) in ethanol-water (40-5 mL) was added ammonium chloride (590 mg, 11.02 mmol) and zinc dust (716 mg, 11.02 mmol) and heated at 100° C. for 1 h. After complete conversion of starting material (TLC), ethanol was removed under reduced pressure and 50 mL additional water was added and extracted with DCM (3×100 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated under vacuum to obtain the crude product, which was purified by reverse phase HPLC to obtain 2-(2,8-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-1-(4-fluorophenyl)ethanamine (730 mg) as the TFA salt. 1H NMR (CD3OD, TFA salt): δ (ppm): 7.27 (m, 1H), 7.21 (m, 3H), 7.10 (m, 3H), 4.60 (m, 3H), 4.50 (m, 1H), 4.24 (m, 1H), 3.69 (m, 1H), 3.44 (m, 1H), 3.04 (m, 1H), 2.96 (s, 3H), 2.56 (m, 1H), 2.41 (s, 3H). Chiral HPLC separated the racemate into enantiomers II-11a-b.

reactant | 5-(2-azido-2-(4-fluorophenyl)ethyl)-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 2.75 mmol, 1 g | N(=[N+]=[N-])C(CN1C2=C(C=3C=C(C=CC13)C)CN(CC2)C)C2=CC=C(C=C2)F | C21H22FN5
reactant | ammonium chloride | 11.02 mmol, 590 mg | [Cl-].[NH4+]
solvent | ethanol water | 40-5 mL | C(C)O.O
catalyst | zinc | 11.02 mmol, 716 mg | [Zn] | Zn
product | 2-(2,8-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-1-(4-fluorophenyl)ethanamine | 730 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(N)C2=CC=C(C=C2)F)CC1 | C21H24FN3
